US04965284
4-Acetylthiomorpholine
The product of Example 30 was followed using thiomorpholine and acetic anhydride giving the desired product.

reactant | thiomorpholine | N1CCSCC1 | C4H9NS
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylthiomorpholine | C(C)(=O)N1CCSCC1 | C6H11NOS
